US05723450
2-Ethyl-4-[cis-4-(1,1,3,3-tetramethylbutyl)cyclohexylamino]-5-bromopyridine
As Example 75, but using 2.01 g (10 mmol) of 4-ethyl-4-amino-5-bromopyridine instead of 2-ethyl-3-bromo-4-aminopyridine and 4.2 g (20 mmol) of 4-(1,1,3,3-tetramethylbutyl)cyclohexanone instead of 4-phenylcyclohexanone. Yield: 1.9 g (48%); Rf =0.39 (diisopropyl ether)

reactant | 4-ethyl-4-amino-5-bromopyridine | 10 mmol, 2.01 g | C(C)C1(CC=NC=C1Br)N | C7H11BrN2
reactant | 4-(1,1,3,3-tetramethylbutyl)cyclohexanone | 20 mmol, 4.2 g | CC(CC(C)(C)C)(C)C1CCC(CC1)=O | C14H26O
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 2-Ethyl-4-[cis-4-(1,1,3,3-tetramethylbutyl)cyclohexylamino]-5-bromopyridine | C(C)C1=NC=C(C(=C1)N[C@@H]1CC[C@@H](CC1)C(CC(C)(C)C)(C)C)Br | C21H35BrN2
